US06927214B1
2,6,7-Trichloro-3-methylquinoxaline
POCl3 was added to 6,7-Dichloro-3-methyl-1H-quinoxalin-2-one (10 g, 44 mmol) and 4-dimethylaminopyridine (1 g) and the mixture was refluxed for 0.5 hours. After cooling, the mixture was poured onto ice (500 ml), filtered and washed with water to afford the title compound.

reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 6,7-Dichloro-3-methyl-1H-quinoxalin-2-one | 44 mmol, 10 g | ClC=1C=C2N=C(C(NC2=CC1Cl)=O)C | C9H6Cl2N2O
catalyst | 4-dimethylaminopyridine | 1 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2,6,7-Trichloro-3-methylquinoxaline | ClC1=NC2=CC(=C(C=C2N=C1C)Cl)Cl | C9H5Cl3N2
